US05877174
In 70 ml of 6N hydrochloric acid was dissolved 7.0 g of ethyl 3-[4-[3-(4-cyanophenoxy)propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)propionate, and the solution was stirred at 50° C. for 1.5 hours and then cooled to room temperature. The reaction solution was adjusted to pH 4.0 with a 15% aqueous sodium hydroxide solution and the crystals precipitated were collected by filtration to obtain 4.6 g of 3-[4-[3-(4-cyanophenoxy)-propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)-propionic acid as colorless crystals.

reactant | ethyl 3-[4-[3-(4-cyanophenoxy)propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)propionate | 7.0 g | C(#N)C1=CC=C(OCCCN2C(C(N(CC2)C(CC(=O)OCC)C=2C=NC=CC2)=O)=O)C=C1 | C24H26N4O5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 6N, 70 ml | Cl | ClH
product | 3-[4-[3-(4-cyanophenoxy)-propyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl)-propionic acid | 4.6 g | C(#N)C1=CC=C(OCCCN2C(C(N(CC2)C(CC(=O)O)C=2C=NC=CC2)=O)=O)C=C1 | C22H22N4O5
